US09107415B2
To a degassed solution of rac-2-(4-bromo-2,6-dimethylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone (1.0 g, 2.5 mmol) in toluene (10 ml) is added tributyl(1-propynyl)tin (1.55 ml, 5.18 mmol) and tetrakistriphenylphosphine palladium(0) (0.5 g, 0.5 mmol) under a nitrogen atmosphere. The reaction mixture is heated at 130°C. for 40 minutes under microwave irradiation, then diluted with distilled water (20 ml) and extracted with ethyl acetate (50 ml×2). The combined organic fractions are washed with distilled water, brine, dried over sodium sulfate, filtered and the filtrate concentrated in vacuo to afford rac-2-(2,6-dimethyl-4-prop-1-ynylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone. This material is used directly in the next step without further purification.

reactant | rac-2-(4-bromo-2,6-dimethylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone | 2.5 mmol, 1.0 g | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)CC1=NC=CC=C1)=O)C | C20H20BrNO2
reactant | tributyl(1-propynyl)tin | 5.18 mmol, 1.55 ml | C(CCC)[Sn](C#CC)(CCCC)CCCC
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
product | rac-2-(2,6-dimethyl-4-prop-1-ynylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone | CC1=C(C(=CC(=C1)C#CC)C)C=1C(C(CC1OC)CC1=NC=CC=C1)=O | C23H23NO2
